US07910585B2
To a stirring solution of 3-Fluoro-2-methyl-6-nitro-benzoic acid (4.2 g, 21 mmol) in THF (40 mL) and methanol (40 mL) is added potassium methoxide in methanol (15 g, 63 mmol) and the solution is heated to 100° C. for 2 hours. The reaction mixture is cooled to room temperature and then the mixture is quenched with a 1N HCl solution and partitioned between ethyl acetate. The organic layer is washed with brine and then concentrated to give 3-Methoxy-2-methyl-6-nitro-benzoic acid (4.3 g) in quantitative yields. 1H-NMR (400 MHz, δ, ppm) CDCl3: 2.32 (s, 3H), 3.98 (s, 3H), 6.95 (d, 1H), 8.15 (d, 1H).

reactant | 3-Fluoro-2-methyl-6-nitro-benzoic acid | 21 mmol, 4.2 g | FC=1C(=C(C(=O)O)C(=CC1)[N+](=O)[O-])C | C8H6FNO4
reactant | potassium methoxide | C[O-].[K+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 63 mmol, 15 g | CO | CH4O
product | 3-Methoxy-2-methyl-6-nitro-benzoic acid | 4.3 g | COC=1C(=C(C(=O)O)C(=CC1)[N+](=O)[O-])C | C9H9NO5
